US07435815B2
2-[(Pyridin-2-ylmethyl)-amino]-ethanol
prepared by reaction of 2-amino-ethanol with pyridine-2-carbaldehyde

reactant | 2-amino-ethanol | NCCO | C2H7NO
reactant | pyridine-2-carbaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[(Pyridin-2-ylmethyl)-amino]-ethanol | N1=C(C=CC=C1)CNCCO | C8H12N2O
